US07589206B2
b) 1-[7-(3-Fluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt
1-[7-(3-Fluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone (73 mg) was dissolved in warm ethanol (12 ml) and treated with a solution of 1M hydrochloric acid in diethyl ether (10 drops) The mixture was evaporated, triturated with diethyl ether and filtered off then dried at 40° C. under vacuum to afford the title compound (65 mg).

reactant | 1-[7-(3-Fluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone | 73 mg | FC=1C=C(C=CC1)NC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | C20H21FN4O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | diethyl ether | 10 drops | C(C)OCC | C4H10O
product | 1-[7-(3-Fluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt | 65 mg | Cl.FC=1C=C(C=CC1)NC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | InChI=1S/C20H21FN4O2.ClH/c1-13-12-24(2)18-17(13)16(20(26)25-6-8-27-9-7-25)11-22-19(18)23-15-5-3-4-14(21)10-15;/h3-5,10-12H,6-9H2,1-2H3,(H,22,23);1H
